US06057451
N-{2-{4-(2-Amino-4-thiazolyl)phenyl}ethyl}-N',N'-dibutylurea (1d: R1D =NH2, R2D =H and R3D =dibutylamino)
The title compound: A solution of phenyl N-{2-{4-(amino-4-thiazolyl)phenyl}ethyl}carbamate (200 mg, 0.59 mmol), prepared in the preceding section (a), and dibutylamine (76.0 mg, 0.59 mmol) in DMSO (1 mL) was stirred at room temperature for 3 d. The reaction mixture was diluted with EtOAc (30 mL) and washed with aqueous saturated NaHCO3 (2×30 mL). The aqueous layers were back extracted with EtOAc (30 mL). The combined organic extracts were dried (MgSO4) then concentrated under reduced pressure. The residue was purified by flash chromatography (SiO2, EtOAc:Hexane, 4:1) to give N-{2-{4-(2-amino-4-thiazolyl)phenyl}ethyl}-N',N'-dibutylurea (167 mg, 76% yield): M.p. 42-43°; 1H NMR (DMSO-d6) δ 7.70 (d, J=8.2 Hz, 2H), 7.16 (d, J=8.2 Hz, 2H), 6.99 (broad s, 2H), 6.92 (s, 1H), 6.11 (broad t, J=5.4 Hz, 1H), 3.23 (broad q, J=6.6 Hz, 2H), 3.09 (t, J=7.5 Hz, 4H), 2.70 (t, J=7.3 Hz, 2H), 1.37 (m, 4H), 1.21 (m, 4H), 0.86 (t, J=7.3 Hz, 6H); MS (FAB) m/z 375 (MH)+.

reactant | phenyl N-{2-{4-(amino-4-thiazolyl)phenyl}ethyl}carbamate | 0.59 mmol, 200 mg | NC=1SC=C(N1)C1=CC=C(C=C1)CCNC(OC1=CC=CC=C1)=O | C18H17N3O2S
reactant | dibutylamine | 0.59 mmol, 76.0 mg | C(CCC)NCCCC | C8H19N
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | N-{2-{4-(2-Amino-4-thiazolyl)phenyl}ethyl}-N',N'-dibutylurea | NC=1SC=C(N1)C1=CC=C(C=C1)CCNC(=O)N(CCCC)CCCC | C20H30N4OS
